US06479536B1
2-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione
To a solution of phthalic anhydride (566.4 mg, 3.82 mmol) in tetrahydrofuran (5 ml) was added a solution of 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (987.3 mg, 3.38 mmol) in tetrahydrofuran(10 ml) and the resulting mixture was refluxed with heating for 11 hours. The reaction mixture was cooled down to room temperature and then concentrated under reduced pressure. Sodium acetate (314.6 mg, 3.84 mmol) and acetic anhydride (20 ml) were added into the residue and the resulting mixture was stirred at 90° C. for 2 hours. The reaction mixture was cooled down to room temperature and then an 8 N aqueous solution of sodium hydroxide was added into the mixture until it became basic. The product was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from ethyl acetate to obtain 1.16 g (81% yield) of the title compound. Melting point: 222-224° C.

reactant | phthalic anhydride | 3.82 mmol, 566.4 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 3.38 mmol, 987.3 mg | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | Sodium acetate | 3.84 mmol, 314.6 mg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | 1.16 g, 81% yield | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2C(C1=CC=CC=C1C2=O)=O)C)C | C28H27NO3
